US05393875
0.1N sodium hydroxide solution was added dropwise while stirring to a mixture of 0.86 g (2.23 mmol) of rac-α-[[[1-[(2 -hydroxyethyl)carbamoyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamic acid and 200 mg of α-chymotrypsin in 5 ml of ethanol and 100 ml of water in such a manner that the pH value was held at 7.5. After sodium hydroxide solution was no longer consumed the working-up of the reaction mixture was effected by adjusting to pH 8 and extracting twice with 40 ml of ether each time. The combined organic extracts were washed with 15 ml of saturated sodium hydrogen carbonate solution, dried over sodium sulphate and evaporated under reduced pressure. There was obtained ethyl (R)-α-[[[1-[(2-hydroxyethyl)carbamoyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate as a yellowish oil.

reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
reactant | rac-α-[[[1-[(2 -hydroxyethyl)carbamoyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamic acid | 2.23 mmol, 0.86 g | OCCNC(=O)C(C)(C)S(=O)(=O)CC(C(=O)O)CC1=CC=CC=C1 | C16H23NO6S
reactant | water | 100 ml | O | H2O
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl (R)-α-[[[1-[(2-hydroxyethyl)carbamoyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate | OCCNC(=O)C(C)(C)S(=O)(=O)C[C@@H](C(=O)OCC)CC1=CC=CC=C1 | C18H27NO6S
